US08236810B2
8-(2-Amino-1,1-dimethylethylsulfanyl)-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione hydrochloride
100 mg of 8-(2-amino-1,1-dimethylethylsulfanyl)-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione were dissolved in 2 ml of ethyl acetate and treated with excess solution of hydrogen chloride in ethyl acetate. After concentration in vacuo at room temperature, the residue was stirred with 5 ml of diisopropyl ether, and the product was filtered off with suction and dried in a vacuum.

reactant | 8-(2-amino-1,1-dimethylethylsulfanyl)-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione | 100 mg | NCC(C)(C)SC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)CC(C1=CC=CC=C1)=O)=O)C | C23H29N5O3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 8-(2-Amino-1,1-dimethylethylsulfanyl)-3-methyl-7-(3-methylbut-2-enyl)-1-(2-oxo-2-phenylethyl)-3,7-dihydropurine-2,6-dione hydrochloride | Cl.NCC(C)(C)SC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)CC(C1=CC=CC=C1)=O)=O)C | InChI=1S/C23H29N5O3S.ClH/c1-15(2)11-12-27-18-19(25-21(27)32-23(3,4)14-24)26(5)22(31)28(20(18)30)13-17(29)16-9-7-6-8-10-16;/h6-11H,12-14,24H2,1-5H3;1H
